US04521426
Part A: Preparation of 2-(4-Chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3-chloro-5-amino pyridine
To a solution of 2.64 g. (11.7 mmol.) of stannous chloride in 2.4 ml. of concentrated hydrochloric acid and 1.75 ml. of p-dioxane at 50° was added 1.2 g. (3.54 mmol.) of 2-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3-chloro-5-nitropyridine. The resulting mixture was heated up to reflux for 0.5 hours, cooled, and poured into sodium hydroxide (pH 14) in cracked ice. This mixture was extracted twice with 150 ml. of methylene chloride. The combined organic layer was washed with water and brine. It was then dried (Na2SO4) and concentrated to give 1.0 g. (3.23 mmole) of light purple solid; mp. 129.8°-132.3°

reactant | hydrochloric acid | Cl | ClH
reactant | 2-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3-chloro-5-nitropyridine | 3.54 mmol | ClC1=CC=C(C=2CCCCC12)OC1=NC=C(C=C1Cl)[N+](=O)[O-] | C15H12Cl2N2O3
reactant | sodium hydroxide | pH 14 | [OH-].[Na+]
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3-chloro-5-amino pyridine | ClC1=CC=C(C=2CCCCC12)OC1=NC=C(C=C1Cl)N | C15H14Cl2N2O
